US04163058
PREPARATION OF 3-(N,N-DIMETHYLGLYCYLOXYMETHYL)DIPHENYLHYDANTOIN
Into a suitable reaction vessel containing 5 ml of pyridine, there is added one g (0.035 mols) of 3-hydroxymethyl-diphenylhydantoin, 0.36 g (0.0035 mols) of N,N-dimethylglycine and 0.79 g (0.0035 mols) of dicyclohexylcarbodiimide (DCCI). The reaction mixture is stirred at room temperature for a period of approximately 24 hours, after which the final product, mp 128°-130°, yield 0.86 g (66.7%) is obtained.

reactant | 3-hydroxymethyl-diphenylhydantoin | 0.035 mols | OCN1C(NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C16H14N2O3
reactant | N,N-dimethylglycine | 0.0035 mols, 0.36 g | CN(CC(=O)O)C | C4H9NO2
reactant | dicyclohexylcarbodiimide | 0.0035 mols, 0.79 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-(N,N-DIMETHYLGLYCYLOXYMETHYL)DIPHENYLHYDANTOIN | CN(CC(=O)OCN1C(NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C20H21N3O4
